US05541224
p-Nitrophenol (14.00 grams; 0.1 mole) and triethylamine (10.17 grams; 0.1 mole) were mixed in 500 ml of methylene chloride. Triflic anhydride (28.42 grams; 0.1 mole) was added. The reaction mixture was stirred for an hour, checked by TLC, and an additional 2 grams of triflic anhydride added. The reaction mixture was stirred another half hour, then worked up, yielding 4-(trifluoromethylsulfonyloxy)-1-nitrobenzene.

reactant | p-Nitrophenol | 0.1 mole, 14.00 grams | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | triethylamine | 0.1 mole, 10.17 grams | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 0.1 mole, 28.42 grams | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | triflic anhydride | 2 grams | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-(trifluoromethylsulfonyloxy)-1-nitrobenzene | FC(S(=O)(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C7H4F3NO5S
